US08304419B2
3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile (0.200 g, 0.562 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.065 g, 0.056 mmol) were combined in THF (4 mL) and treated with dimethylzinc (1 M in heptane) (1.125 mL, 1.125 mmol) with stirring under an inert atmosphere. The reaction mixture was heated to 65° C. and stirred for 1 h. The reaction mixture was concentrated to dryness, partitioned between EtOAc and saturated aqueous NaHCO3, the organic phase was isolated, dried over MgSO4, filtered and concentrated to dryness. The residue was dissolved in CH3OH and gravity filtered through a StratoSpheres™ PL-Thiol MP SPE+ cartridge. The filtrate was cooled in an ice bath and the resultant precipitate filtered off to give 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-methylbenzonitrile (0.023 g, 0.079 mmol, 14.07% yield) as a white solid. The mother liquor was concentrated to dryness and purified on 40 g silica gel eluted successively with EtOAc and 10% CH3OH/DCM to give a second batch of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-methylbenzonitrile (0.072 g, 0.248 mmol, 44.0% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.45-7.53 (m, 2H), 7.42 (s, 1H), 7.19 (s, 1H), 7.10 (s, 1H), 3.76 (s, 2H), 2.33 (s, 3H), 1.99 (br. s., 2H). LC-MS (ES−) m/z 289.99, 291.15 [M−1]. LC-MS (ES+) m/z 290.98, 293.00 [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile | 0.562 mmol, 0.200 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Br)F | C14H9BrClFN2O
reactant | dimethylzinc | 1.125 mmol, 1 M, 1.125 mL | C[Zn]C
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.056 mmol, 0.065 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-methylbenzonitrile | 0.079 mmol, 0.023 g, 14.07% yield | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C)F | C15H12ClFN2O
